US04340598
In a mixture of 70 ml of dioxane and 60 ml of methyl cellosolve was dissolved 4 g of 2-butyl-5-hydroxymethylimidazole, and 3.9 g of N-chlorosuccinimide was added to the solution, followed by stirring at 40° C. for 1 hour. The reaction solution was evaporated to dryness under reduced pressure, and 100 ml each of water and ethyl acetate were added to the residue to shake for mixing. The ethyl acetate layer was evaporated to dryness under reduced pressure, and the residue was dissolved in 50 ml of ether. The solution was allowed to cool, thereby yielding 2.4 g of 2-butyl-4-chloro-5-hydroxymethylimidazole deposited as colorless prisms, m.p. 147°-148° C.

reactant | 2-butyl-5-hydroxymethylimidazole | 4 g | C(CCC)C=1NC(=CN1)CO | C8H14N2O
reactant | N-chlorosuccinimide | 3.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | methyl cellosolve | 60 ml | COCCO | C3H8O2
product | 2-butyl-4-chloro-5-hydroxymethylimidazole | 2.4 g | C(CCC)C=1NC(=C(N1)Cl)CO | C8H13ClN2O
